US09388173B2
To a solution of 1-(3-bromophenoxy)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol (1.31 g, 4.01 mmol) in DMSO (10 ml) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.2 g, 4.42 mmol), KOAc (1.2 g, 12.04 mmol) and Pd(dppfCl)2 (0.88 g, 1.2 mmol) at 20° C. The mixture was stirred for 4 hours at 100° C. until the reaction was complete. The mixture was then treated with water (50 ml) and extracted with EA (2×20 ml) and the combined organic layers dried and concentrated to get the crude which was purified by flash column to give the desired 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol (795 mg, 48.5%) as a colorless oil. LCMS (m/z): 410.2 (M+1).

reactant | 1-(3-bromophenoxy)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 4.01 mmol, 1.31 g | BrC=1C=C(OCC(CN2CC3=CC=CC=C3CC2)O)C=CC1 | C18H20BrNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 4.42 mmol, 1.2 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 12.04 mmol, 1.2 g | CC(=O)[O-].[K+]
reactant | water | 50 ml | O | H2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol | 795 mg, 48.5% | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)O | C24H32BNO4
